US04022801
To a solution of 20.1 g of 3-[4-chloro-2-(2-fluoro-α-methoxy-benzyl)-phenyl]-4-ethoxycarbonyl-2-methyl-pyrazole in 250 ml methylene chloride is added 54 ml of a 1.4 molar boron trichloride solution in methylene chloride, and the mixture is stirred during 16 hours. Ice/water is then added; the organic layer separated, washed with a saturated solution of sodium chloride and dried over anhydrous sodium sulfate. The aqueous layers are reextracted with methylene chloride. After removal of the solvent, the 3-[4-chloro-2-(α-chloro-2-fluoro-benzyl)-phenyl]-4-ethoxycarbonyl-2-methyl-pyrazole is obtained as the solid residue, which is directly used in the next step.

reactant | 3-[4-chloro-2-(2-fluoro-α-methoxy-benzyl)-phenyl]-4-ethoxycarbonyl-2-methyl-pyrazole | 20.1 g | ClC1=CC(=C(C=C1)C=1N(N=CC1C(=O)OCC)C)C(C1=C(C=CC=C1)F)OC | C21H20ClFN2O3
reactant | boron trichloride | 1.4 molar | B(Cl)(Cl)Cl | BCl3
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 3-[4-chloro-2-(α-chloro-2-fluoro-benzyl)-phenyl]-4-ethoxycarbonyl-2-methyl-pyrazole | ClC1=CC(=C(C=C1)C=1N(N=CC1C(=O)OCC)C)C(C1=C(C=CC=C1)F)Cl | C20H17Cl2FN2O2
